US07321040B2
C) 1-Ethyl-3-[2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-benzyl]-urea
To a solution of 2-(3-Isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-benzylamine (200.0 mg, 0.671 mmol) in dichloromethane (6.71 mL) under nitrogen at ambient temperature was added ethyl isocyanate (53.0 μL, 0.67 mmol). The reaction was stirred for 20 minutes, then the solvent was removed in vacuo. The residue was recrystallized from ethyl acetate to give the title compound (231 mg, 94%). MS (M+1)=370.5.

reactant | 2-(3-Isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-benzylamine | 0.671 mmol, 200.0 mg | C(C)(C)C1=NN=C2N1C=C(C=C2)SC2=C(CN)C=CC=C2 | C16H18N4S
reactant | ethyl isocyanate | 0.67 mmol, 53.0 μL | C(C)N=C=O | C3H5NO
solvent | dichloromethane | 6.71 mL | ClCCl | CH2Cl2
product | 1-Ethyl-3-[2-(3-isopropyl-[1,2,4]triazolo[4,3-a]pyridin-6-ylsulfanyl)-benzyl]-urea | 231 mg, 94% | C(C)NC(=O)NCC1=C(C=CC=C1)SC=1C=CC=2N(C1)C(=NN2)C(C)C | C19H23N5OS
